US08258130B2
A solution of 2-pyridin-3-yl-pyrimidine-5-carboxylic acid (506 mg, 2.13 mmol), HCTU (970 mg, 2.34 mmol), and DIPEA (1 mL, 5.72 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 5-Fluoro-2-methyl-indol-1-ylamine (311 mg, 1.89 mmol) is added. The resulting mixture is stirred at 75° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 45% EtOAc in heptane to afford 2-pyridin-3-yl-pyrimidine-5-carboxylic acid (5-fluoro-2-methyl-indol-1-yl)-amide (300 mg, 46%) as a solid. MS: 348 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 12.02 (s, 1H), 9.60 (d, 1H), 9.49 (s, 2H), 8.82-8.76 (m, 2H), 7.64 (dd, 1H), 7.39 (dd, 1H), 7.29 (dd, 1H), 6.94 (dt, 1H), 6.35 (s, 1H), 2.33 (s, 3H).

reactant | 2-pyridin-3-yl-pyrimidine-5-carboxylic acid | 2.13 mmol, 506 mg | N1=CC(=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | HCTU | 2.34 mmol, 970 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 5.72 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-2-methyl-indol-1-ylamine | 1.89 mmol, 311 mg | FC=1C=C2C=C(N(C2=CC1)N)C | C9H9FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-pyridin-3-yl-pyrimidine-5-carboxylic acid (5-fluoro-2-methyl-indol-1-yl)-amide | 300 mg, 46% | FC=1C=C2C=C(N(C2=CC1)NC(=O)C=1C=NC(=NC1)C=1C=NC=CC1)C | C19H14FN5O
